US08389743B2
3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid
A 2.5 M solution of n-BuLi in hexanes (101 mL, 254 mmol) was added over 15 min to a solution of 1-(4-bromo-2-chlorobenzyl)pyrrolidine (69.6 g, 254 mmol) in absolute THF (450 ml) under a flow of nitrogen at −78° C. The reaction mixture was stirred at −78° C. for 30 min. Then a −78° C. chilled solution of 3-oxocyclobutanecarboxylic acid (14.4 g, 126.7 mmol) in absolute THF (150 ml) was added drop wise for 10 min at −78° C. The mixture was warmed to RT slowly and left stirring for 18 hrs and the resulting solution was used. LRMS m/z Calcd for C16H20NClO3, 309.8, found, 308.1 (M−H) APCI.

reactant | n-BuLi | [Li]CCCC
reactant | 1-(4-bromo-2-chlorobenzyl)pyrrolidine | 254 mmol, 69.6 g | BrC1=CC(=C(CN2CCCC2)C=C1)Cl | C11H13BrClN
reactant | 3-oxocyclobutanecarboxylic acid | 126.7 mmol, 14.4 g | O=C1CC(C1)C(=O)O | C5H6O3
solvent | THF | 450 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid | ClC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)O)O | C16H20ClNO3
